US04399137
(a) 3-Hydrazino-6-(2-methyl-imidazol-1-yl)-pyridazine
6.7 g (35 millimoles) of 3-chloro-6-(2-methyl-imidazol-1-yl)-pyridazine are taken up in 30 ml of hydrazine hydrate and the mixture is heated for 5-10 hours at 100°-130° C. under nitrogen as a protective gas; the reaction mixture becomes homogeneous in the course of the first few hours. When the mixture has cooled, the crude product which has precipitated is filtered off. It is also possible to pour the reaction mixture into ice water and extract the mixture repeatedly with methylene chloride. Continuous extraction by means of a rotary perforator, using methylene chloride or chloroform as the extraction solvents, has also proved an advantageous method. Yet a further possibility is to distil off the hydrazine hydrate under reduced pressure.

reactant | 3-chloro-6-(2-methyl-imidazol-1-yl)-pyridazine | 35 millimoles, 6.7 g | ClC=1N=NC(=CC1)N1C(=NC=C1)C | C8H7ClN4
reactant | hydrazine hydrate | 30 ml | O.NN
product | 3-Hydrazino-6-(2-methyl-imidazol-1-yl)-pyridazine | N(N)C=1N=NC(=CC1)N1C(=NC=C1)C | C8H10N6
